US04663327
19.9 g (0.1 mol) of ethyl 4-chloro-phenylacetate are heated with 23.8 g (0.2 mol) of dimethylformamide dimethyl acetal to 100° C. for 5 hours. All volatile components are then distilled off at this temperature in a vacuum from a water pump. The oily residue, which essentially consists of ethyl α-dimethylaminomethylene-4-chlorophenylacetate, is dissolved in 140 ml of ethanol without further purification, and 11 g (0.1 mol) of 2-hydrazinopyrimidine and 10 ml of concentrated hydrochloric acid are added. The mixture is heated under reflux for 5 hours and cooled to room temperature, and, after the addition of 9 g of concentrated sodium hydroxide solution, is stirred for 5 hours at room temperature. After it has been neutralized with dilute hydrochloric acid, the mixture is diluted with 1 l of water. The precipitated crystals are filtered off under suction, washed with water and dried in the air. 7.2 g (26.4% of theory) of 1-pyrimid-2-yl-4-(4 -chlorophenyl)-pyrazolin-5-one of melting point 190° to 191° C. (methanol) are obtained.

reactant | ethyl 4-chloro-phenylacetate | 0.1 mol, 19.9 g | ClC1=CC=C(C=C1)CC(=O)OCC | C10H11ClO2
reactant | dimethylformamide dimethyl acetal | 0.2 mol, 23.8 g | COC(N(C)C)OC | C5H13NO2
reactant | 2-hydrazinopyrimidine | 0.1 mol, 11 g | N(N)C1=NC=CC=N1 | C4H6N4
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | sodium hydroxide | 9 g | [OH-].[Na+]
solvent | ethanol | 140 ml | C(C)O | C2H6O
solvent | water | 1 l | O | H2O
product | 1-pyrimid-2-yl-4-(4 -chlorophenyl)-pyrazolin-5-one | 7.2 g, 26.4% | N1=C(N=CC=C1)N1NC=C(C1=O)C1=CC=C(C=C1)Cl | C13H9ClN4O
